US08431563B2
A 250 ml, round-bottomed flask was charged with methyl O-benzyl-L-serylglycinate trifluoroacetate (9.37 g, 24.64 mmol) and 3:1 MeOH/triethylamine (50 mL). The mixture was then heated to reflux for 16 h. The reaction was then cooled to room temperature, concentrated, and diluted with ice cold 50% aqueous EtOH (50 mL). The resulting precipitate was collected by filtration and dried under reduced pressure to give 3-(benzyloxymethyl)piperazine-2,5-dione (3.95 g) as a white solid.

reactant | methyl O-benzyl-L-serylglycinate trifluoroacetate | 24.64 mmol, 9.37 g | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC[C@H](N)C(=O)NCC(=O)OC
solvent | MeOH triethylamine | 50 mL | CO.C(C)N(CC)CC
product | 3-(benzyloxymethyl)piperazine-2,5-dione | 3.95 g | C(C1=CC=CC=C1)OCC1C(NCC(N1)=O)=O | C12H14N2O3
